US07652061B2
To a stirred solution of the title C compound, 1-(3-hydroxy-phenylsulfanylcarbonyl)-pyrrolidine-2-carboxylic acid ethyl ester (1.1 g, 3.73 mmol) and potassium carbonate (0.78 g, 5.59 mmol) in DMF (25 mL) is added 4-chloromethyl-5-methyl-2-phenyl-oxazole (0.78 g, 3.73 mmol) at RT. The reaction mixture is stirred for 16 h. The stirring is continued for another 3 h at 40° C. The reaction mixture is cooled to RT, diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated at reduced pressure. The crude product is purified on a Biotage 40M column using 25% ethyl acetate in hexane to yield (R)-1-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenylsulfanylcarbonyl]-pyrrolidine-2-carboxylic acid ethyl ester as a clear, heavy oil.

reactant | 1-(3-hydroxy-phenylsulfanylcarbonyl)-pyrrolidine-2-carboxylic acid ethyl ester | 3.73 mmol, 1.1 g | C(C)OC(=O)C1N(CCC1)C(=O)SC1=CC(=CC=C1)O | C14H17NO4S
reactant | potassium carbonate | 5.59 mmol, 0.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethyl-5-methyl-2-phenyl-oxazole | 3.73 mmol, 0.78 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenylsulfanylcarbonyl]-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1N(CCC1)C(=O)SC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H26N2O5S
